US07601856B2
Following the procedure of Example 23, tetrahydro-dibenzofuran-2-ylamine (0.15 g, 0.80 mmol), hexanoyl chloride (0.11 mL, 0.80 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (8 mL) provided N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)hexanamide (0.10 g). MS (ESI) m/z286.

reactant | tetrahydro-dibenzofuran-2-ylamine | 0.80 mmol, 0.15 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | hexanoyl chloride | 0.80 mmol, 0.11 mL | C(CCCCC)(=O)Cl | C6H11ClO
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9-tetrahydrodibenzo[b,d]furan-2-yl)hexanamide | 0.10 g | C1=C(C=CC=2OC3=C(C21)CCCC3)NC(CCCCC)=O | C18H23NO2
